US07053083B2
(4-Cyclohexyl-phenyl)-(5,11-dihydro-pyrido[2,3-b][1,5]benzodiazepin-6-yl)-methanone
A suspension of 4-cyclohexylbenzoic acid (1.30 g, 6.4 mmol) in thionyl chloride (6 mL) was heated at reflux for 30 minutes. After cooling, the thionyl chloride was removed in vacuo. The residue was dissolved in toluene and concentrated in vacuo to give the acid chloride as a golden oil. The acid chloride was then dissolved in N,N-dimethylformamide (5 mL) and slowly added to a solution of 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine (1.0 g, 5.1 mmol) and potassium carbonate (0.77 g, 5.6 mmol) in N,N-dimethylformamide (15 mL). After stirring for one hour, the reaction was quenched with water and extracted with ethyl acetate. The organic extracts were washed with 1 N sodium hydroxide, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give a light pink solid. The solid was dissolved in a large volume of boiling ethanol and filtered hot. The title compound (1.19 g) crystallized as an off-white solid, m.p. 230–233° C.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine | 5.1 mmol, 1.0 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | potassium carbonate | 5.6 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (4-Cyclohexyl-phenyl)-(5,11-dihydro-pyrido[2,3-b][1,5]benzodiazepin-6-yl)-methanone | C1(CCCCC1)C1=CC=C(C=C1)C(=O)N1CC2=C(NC3=C1C=CC=C3)N=CC=C2 | C25H25N3O
